US09259470B2
Triethylamine (0.480 mL, 3.44 mmol) was added to (R)-2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethanol (0.70 g, 2.30 mmol) in DCM (10 mL) cooled in ice, and then methanesulfonyl chloride (0.213 mL, 2.76 mmol) was added. After 1 hour, the reaction mixture was diluted with DCM, washed with aqueous NaHCO3, dried over MgSO4, filtered, and evaporated to yield (R)-2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethyl methanesulfonate (0.87 g, 2.27 mmol, 98.9% yield) as an oil. 1H NMR (400 MHz, CDCl3) δ 7.47-7.44 (m, 1H), 7.29-7.24 (m, 1H), 7.16 (t, 1H), 5.51-5.47 (m, 1H), 3.94-3.89 (m, 1H), 3.81-3.76 (m, 1H), 2.97 (s, 3H), 0.88 (s, 9H), 0.04 (d, 6H).

reactant | Triethylamine | 3.44 mmol, 0.480 mL | C(C)N(CC)CC | C6H15N
reactant | (R)-2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethanol | 2.30 mmol, 0.70 g | [Si](C)(C)(C(C)(C)C)OC[C@H](O)C1=CC(=C(C=C1)F)Cl | C14H22ClFO2Si
reactant | methanesulfonyl chloride | 2.76 mmol, 0.213 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(tert-butyldimethylsilyloxy)-1-(3-chloro-4-fluorophenyl)ethyl methanesulfonate | 2.27 mmol, 0.87 g, 98.9% yield | CS(=O)(=O)O[C@@H](CO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)F)Cl | C15H24ClFO4SSi
